US09255101B2
To a solution of 1-trityl-imidazole-4-carboxaldehyde (5 g, 14.8 mmoles) in THF (40 mL) is added dropwise a solution of 1M phenylmagnesium bromide in THF (17.7 mL, 17.7 mmoles). The reaction mixture is stirred at room temperature for 3 h, then it is poured into a saturated solution of NH4Cl. The aqueous phase is extracted three times with CH2Cl2. The organic phase is dried over magnesium sulphate, filtered and the solvent is removed under reduced pressure. The residue is dissolved in concentrated HI solution (75 mL) and the reaction mixture is heated at reflux overnight. After cooling at room temperature, the reaction mixture is extracted three times with Et2O. The aqueous phase is basified by adding solid Na2CO3 to pH 7, solid NaHSO3 is added until the red colour disappeared and the aqueous phase is extracted three times with Et2O. The organic phase is dried over magnesium sulphate, filtered and the solvent is removed under reduced pressure to give 4-benzyl-1H-imidazole.

reactant | 1-trityl-imidazole-4-carboxaldehyde | 14.8 mmoles, 5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C=O | C23H18N2O
reactant | phenylmagnesium bromide | 1M | C1(=CC=CC=C1)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 17.7 mmoles, 17.7 mL | C1CCOC1 | C4H8O
product | 4-benzyl-1H-imidazole | C(C1=CC=CC=C1)C=1N=CNC1 | C10H10N2
